US09359367B2
To the solution of tert-butyl 4-(4-fluorophenyl)-3-oxopiperazine-1-carboxylate (2 g, 6.80 mmol) in dichloromethane (5 ml) was added slowly hydrogenchloride in 1,4-dioxane (16.99 ml, 68.0 mmol) at 0° C. and reaction was stirred for 3 h at 25° C. After completion of the reaction, the solvent was evaporated under reduced pressure to obtained salt was triturated with diethyl ether (2×10 ml) decanted it and dried to give 1-(4-fluorophenyl)piperazin-2-one hydrochloride (1.2 g, 5.20 mmol, 77%)

reactant | tert-butyl 4-(4-fluorophenyl)-3-oxopiperazine-1-carboxylate | 6.80 mmol, 2 g | FC1=CC=C(C=C1)N1C(CN(CC1)C(=O)OC(C)(C)C)=O | C15H19FN2O3
reactant | hydrogenchloride | Cl | ClH
reactant | 1,4-dioxane | 68.0 mmol, 16.99 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(4-fluorophenyl)piperazin-2-one hydrochloride | 5.20 mmol, 1.2 g, 77% | Cl.FC1=CC=C(C=C1)N1C(CNCC1)=O | InChI=1S/C10H11FN2O.ClH/c11-8-1-3-9(4-2-8)13-6-5-12-7-10(13)14;/h1-4,12H,5-7H2;1H
